US07230031B2
3-{2-[2-Benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy)phenyl]vinyl}furan
To a suspension of furfuryltriphenylphosphonium bromide (377 mg) in tetrahydrofuran (30 mL) was added potassium tert-butoxide (136 mg) at room temperature, and the mixture was stirred for 15 min. After adding 2-benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy)benzaldehyde (377 mg), the mixture was stirred at room temperature for 6 hours. After adding dropwise diluted hydrochloric acid to make the mixture acidify fully, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate) to give the title compound (306 mg).

reactant | furfuryltriphenylphosphonium bromide | 377 mg | [Br-].C(C1=CC=CO1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 136 mg | CC(C)([O-])C.[K+]
reactant | 2-benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy)benzaldehyde | 377 mg | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C24H21NO5
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-{2-[2-Benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy)phenyl]vinyl}furan | 306 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])C=CC1=COC=C1 | C29H25NO5
